US07968538B2
5-Chloro-2,3-dimethoxybenzaldehyde
A mixture of 5-Chloro-2-hydroxy-3-methoxybenzaldehyde (275 g, 1.47 mol) and DMF were stirred as potassium carbonate (411 g, 2.97 mol) was added over 5 minutes. The mixture temperature rose from 22 to 29° C. over 10 minutes. Dimethylsulfate (283 g, 2.24 mol) was added over 15 minutes causing a temperature rise from 28 to 47° C. The mixture was then heated with a heating mantle to 61° C. over 15 minutes and stirred at 61° C. for 1.5 hours; the reaction was complete by TLC. The reaction mixture was cooled to 22° C., transferred to a 22-L flask and diluted with water (8.2 L) over 5 minutes; the temperature rose to 38° C. The light yellow mixture was filtered and the flask and filter cake rinsed with 1.5 L water. The solid was dried under vacuum for 15 hour at 50° C. The material contained inorganic salts and was suspended in water (3 L) for 1.5 hours. After filtration and a 500 mL water rinse, the filter cake was dried under by suction and overnight at 65° C. under vacuum. Yield: 305 g (100% yield, 99.1% purity).

reactant | 5-Chloro-2-hydroxy-3-methoxybenzaldehyde | 1.47 mol, 275 g | ClC=1C=C(C(=C(C=O)C1)O)OC | C8H7ClO3
reactant | DMF | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 2.97 mol, 411 g | C([O-])([O-])=O.[K+].[K+]
reactant | Dimethylsulfate | 2.24 mol, 283 g | COS(=O)(=O)OC | C2H6O4S
solvent | water | 8.2 L | O | H2O
product | 5-Chloro-2,3-dimethoxybenzaldehyde | 100% yield | ClC=1C=C(C(=C(C=O)C1)OC)OC | C9H9ClO3
